US07544697B2
Di-tert-butyl dicarbonate (13.3 g, 60.9 mmol) was added to a mixture of 5-(2-aminoethyl)-4-bromo-1-methyl-1H-pyrazole-3-carbonitrile (11.62 g, 50.7 mmol) in 1-methyl-2-pyrrolidinone at 0° C. The mixture was allowed to warm to ambient temperature and was stirred for 20 minutes; a solution formed. Water was added to the stirred solution, causing a solid to form. The mixture was cooled and the solid was isolated by filtration, washed with water, and dried. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 60-75% ethyl acetate in hexanes). The appropriate fractions were combined and concentrated under reduced pressure to provide 12.0 g of tert-butyl 2-(4-bromo-3-cyano-1-methyl-1H-pyrazol-5-yl)ethylcarbamate as a white solid.

reactant | Di-tert-butyl dicarbonate | 60.9 mmol, 13.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-(2-aminoethyl)-4-bromo-1-methyl-1H-pyrazole-3-carbonitrile | 50.7 mmol, 11.62 g | NCCC1=C(C(=NN1C)C#N)Br | C7H9BrN4
reactant | Water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | tert-butyl 2-(4-bromo-3-cyano-1-methyl-1H-pyrazol-5-yl)ethylcarbamate | 12.0 g | BrC=1C(=NN(C1CCNC(OC(C)(C)C)=O)C)C#N | C12H17BrN4O2
